US07772285B2
1.00 g of 1H-benzimidazole-5-carboxylic acid was suspended in a mixed solvent of 10 mL of tetrahydrofuran and 20 μL of N,N-dimethylformamide, to which 1.6 mL of oxalyl chloride was added dropwise at room temperature, and this suspension was stirred for one hour at room temperature. The reaction mixture, to which 10 mL of methanol was added, was stirred for another one hour at room temperature and then for 30 minutes at 50° C., and this mixture was concentrated under reduced pressure. The resultant solid was washed with diisopropyl ether to yield 1.25 g of methyl 1H-benzimidazole-5-carboxylate hydrochloride as gray solid.

reactant | 1H-benzimidazole-5-carboxylic acid | 1.00 g | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methanol | 10 mL | CO | CH4O
product | methyl 1H-benzimidazole-5-carboxylate hydrochloride | 1.25 g | Cl.N1C=NC2=C1C=CC(=C2)C(=O)OC | InChI=1S/C9H8N2O2.ClH/c1-13-9(12)6-2-3-7-8(4-6)11-5-10-7;/h2-5H,1H3,(H,10,11);1H
